US08871756B2
4-(4-Chloro-6-(trifluoromethoxy)quinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide
A mixture of 2,4-dichloro-6-(trifluoromethoxy)quinoline (250 mg, 0.89 mmol), 2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (210 mg, 1.06 mmol) and n-butanol (2 mL) was heated with stirring in a 5 mL of microwave process vial for 3 hours at 150° C. under microwave irradiation. The mixture was filtered. The formed solid was collected by filtration and washed with 10 mL of mixture solution of petroleum ether and ethyl acetate (V/V=10/1) to afford 0.3 g of the product (yield was 77%).

reactant | 2,4-dichloro-6-(trifluoromethoxy)quinoline | 0.89 mmol, 250 mg | ClC1=NC2=CC=C(C=C2C(=C1)Cl)OC(F)(F)F | C10H4Cl2F3NO
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | 1.06 mmol, 210 mg | S1(CCNCC2=C1C=CC=C2)(=O)=O | C9H11NO2S
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
product | 4-(4-Chloro-6-(trifluoromethoxy)quinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | 0.3 g, yield was 77% | ClC1=CC(=NC2=CC=C(C=C12)OC(F)(F)F)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H14ClF3N2O3S
